US04307106
N-thenylthiourea (0.80 grams, 0.0046 moles) and α-chloro-p-fluoroacetophenone (0.80 grams, 0.0046 moles, Aldrich Chem. Co.) in 11 ml absolute ethanol were heated at reflux temperature under nitrogen for 90 minutes. After cooling, and ethanol was removed under vacuum and the solids triturated with ethanol, filtered and vacuum dried over phosphorous pentoxide, yielding 0.848 grams (56%) of 2-thenylamino-4(p-fluorophenyl)-thiazole hydrochloride, m.p. 184°-187° C.

reactant | N-thenylthiourea | 0.0046 moles, 0.80 grams | C1(=CC=CS1)CNC(=S)N | C6H8N2S2
reactant | α-chloro-p-fluoroacetophenone | 0.0046 moles, 0.80 grams | ClCC(=O)C1=CC=C(C=C1)F | C8H6ClFO
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 2-thenylamino-4(p-fluorophenyl)-thiazole hydrochloride | 0.848 grams, 56% | Cl.C1(=CC=CS1)CNC=1SC=C(N1)C1=CC=C(C=C1)F | InChI=1S/C14H11FN2S2.ClH/c15-11-5-3-10(4-6-11)13-9-19-14(17-13)16-8-12-2-1-7-18-12;/h1-7,9H,8H2,(H,16,17);1H
